US06002008
4-(3,4-Dimethoxyphenylmethylamino)-6,7-diethoxy-3quinolinecarbonitrile
In the manner of Example 61 reaction of 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile with 3,4-dimethoxybenzylamine gave the title compound as a tan solid, mp 200-204° C.

reactant | 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | 3,4-dimethoxybenzylamine | COC=1C=C(CN)C=CC1OC | C9H13NO2
product | 4-(3,4-Dimethoxyphenylmethylamino)-6,7-diethoxy-3quinolinecarbonitrile | COC=1C=C(C=CC1OC)CNC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C23H25N3O4
